US08048884B2
4-Fluoro-N-(2-{4-[2-(1H-indol-4-yl)-pyridin-3-yl]-piperazin-1-yl}-ethyl)-N-methyl-benzenesulfonamide hydrochloride
Dissolve N-{2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-4-fluoro-N-methyl-benzenesulfonamide (0.160 g, 0.387 mmol) in DME (5 mL, previously degassed with nitrogen). Add 4-indole boronic acid (0.094 g, 0.581 mmol), 2N aqueous potassium carbonate (0.464 mL, 0.129 g, 0.930 mmol), and tetrakis(triphenylphosphine)palladium (0.022 g, 0.022 mmol). Stir the reaction mixture at 80° C. for 18 hr. Add fresh catalyst (0.015 g) and boronic acid (0.050 g). Stir an additional 8 hr. at 95° C. Cool to room temperature and concentrate to remove DME. Dilute with ethyl acetate and brine. Extract the aqueous layer with ethyl acetate. Combine the organic layers, dry over sodium sulfate, filter, and concentrate. Purify the resulting material by silica gel chromatography eluting with dichloromethane:methanol 94:6 to 90:10 to afford the title compound (0.031 g).

reactant | N-{2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-4-fluoro-N-methyl-benzenesulfonamide | 0.387 mmol, 0.160 g | ClC1=NC=CC=C1N1CCN(CC1)CCN(S(=O)(=O)C1=CC=C(C=C1)F)C | C18H22ClFN4O2S
reactant | 4-indole boronic acid | 0.581 mmol, 0.094 g | N1C=CC=2C(=CC=CC12)B(O)O | C8H8BNO2
reactant | potassium carbonate | 0.930 mmol, 2N, 0.464 mL, 0.129 g | C([O-])([O-])=O.[K+].[K+]
reactant | boronic acid | 0.050 g | B(O)O | BH3O2
solvent | DME | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.022 mmol, 0.022 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Fluoro-N-(2-{4-[2-(1H-indol-4-yl)-pyridin-3-yl]-piperazin-1-yl}-ethyl)-N-methyl-benzenesulfonamide hydrochloride | 0.031 g | Cl.FC1=CC=C(C=C1)S(=O)(=O)N(C)CCN1CCN(CC1)C=1C(=NC=CC1)C1=C2C=CNC2=CC=C1 | InChI=1S/C26H28FN5O2S.ClH/c1-30(35(33,34)21-9-7-20(27)8-10-21)14-15-31-16-18-32(19-17-31)25-6-3-12-29-26(25)23-4-2-5-24-22(23)11-13-28-24;/h2-13,28H,14-19H2,1H3;1H
